US04689426
To a solution of 600 mg (1.8 mmol) of (4R)-4-(1-octenyl)-5-(6-methoxycarbonylhexylidene)-2-cyclopentenone in 6 ml of methanol was added 0.92 ml (9.0 mmol) of 30% aqueous hydrogen peroxide with ice cooling and stirring, and then 60 microliters (60 micromol) of 1N aqueous sodium hydroxide was added. The mixture was stirred at 0 C. for 45 minutes. A saturated aqueous solution of ammonium chloride was added, and the mixture was extracted with hexane. The organic layer was washed with a saturated sodium chloride, dried over anhydrous magnesium sulfate, filtered, concentrated and subjected to silica gel column chromatography (silica gel, 40 g; eluent, hexane:ethyl acetate=10:1→5:1) to give 491 mg (yield 78%) of (4S)-2,3-epoxy-4-(1-octenyl)-5-(6-methoxycarbonyl-hexylidene)cyclopentenone.

reactant | (4R)-4-(1-octenyl)-5-(6-methoxycarbonylhexylidene)-2-cyclopentenone | 1.8 mmol, 600 mg | C(=CCCCCCC)[C@@H]1C=CC(C1=CCCCCCC(=O)OC)=O | C21H32O3
reactant | hydrogen peroxide | 9.0 mmol, 0.92 ml | OO | H2O2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | methanol | 6 ml | CO | CH4O
catalyst | sodium hydroxide | 60 micromol, 1N, 60 microliters | [OH-].[Na+]
product | (4S)-2,3-epoxy-4-(1-octenyl)-5-(6-methoxycarbonyl-hexylidene)cyclopentenone | 491 mg, yield 78% | O1C=2C(C([C@@H](C21)C=CCCCCCC)=CCCCCCC(=O)OC)=O | C21H30O4
